US04202835
20 g of anhydrous combination bisulfite of m-phenoxy-benzaldehyde were added under an inert atmosphere to 80 ml of anhydrous dimethylformamide and then 3.3 g of anhydrous sodium cyanide were added thereto at 0° C. under an inert atmosphere. The mixture was stirred at 0° C. for 45 minutes after which a sample of the reaction mixture was taken to verify by chromatography analysis that the conversion was complete. The reaction mixture was poured into a mixture of ice, water, acetic acid and isopropyl ether and the mixture was stirred and decanted. The aqueous phase was extracted with isopropyl ether and the combined organic phases were washed with water, dried and evaporated to dryness to obtain 13.8 g of α-cyano-3-phenoxy-benzyl alcohol.

reactant | bisulfite | S([O-])(O)=O
reactant | m-phenoxy-benzaldehyde | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | sodium cyanide | 3.3 g | [C-]#N.[Na+]
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | α-cyano-3-phenoxy-benzyl alcohol | 13.8 g | C(#N)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
